US04284631
2-(2-Aminothiazol-4-yl)-2-(4-chlorobenzyloxyimino)acetic acid (syn isomer, 17.3 g.), bis (trimethylsilyl)acetamide (32.3 g.), 2,2,2-trifluoroacetic anhydride (53.6 g.) and ethyl acetate (170 ml.) were treated in a similar manner to that of Example P-(5) to give 2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-(4-chlorobenzyloxyimino)acetic acid (syn isomer, 14.94 g.).

reactant | 2-(2-Aminothiazol-4-yl)-2-(4-chlorobenzyloxyimino)acetic acid | 17.3 g | NC=1SC=C(N1)C(C(=O)O)=NOCC1=CC=C(C=C1)Cl | C12H10ClN3O3S
reactant | bis (trimethylsilyl)acetamide | 32.3 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2,2,2-trifluoroacetic anhydride | 53.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethyl acetate | 170 ml | C(C)(=O)OCC | C4H8O2
product | 2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-(4-chlorobenzyloxyimino)acetic acid | 14.94 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC1=CC=C(C=C1)Cl)(F)F | C14H9ClF3N3O4S
